US08580794B2
(1-(1,3-difluoropropan-2-yl)piperidin-4-yl)methanol
A suspension of piperidin-4-ylmethanol (0.250 g), sodium triacetoxyborohydride (0.690 g) and 1,3-difluoropropan-2-one (0.245 g) were stirred together in dichloromethane. After stirring overnight the reaction was poured into saturated aqueous NaHCO3 solution (10 mL) and stirred for 15 minutes. The reaction was extracted with dichloromethane (3×25 mL), dried over magnesium sulfate, filtered, and concentrated. Silica gel chromatography (GraceResolv 12 g) eluting with a gradient of 0.75% to 3% methanol/dichloromethane gave the title compound.

reactant | piperidin-4-ylmethanol | 0.250 g | N1CCC(CC1)CO | C6H13NO
reactant | sodium triacetoxyborohydride | 0.690 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,3-difluoropropan-2-one | 0.245 g | FCC(CF)=O | C3H4F2O
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (1-(1,3-difluoropropan-2-yl)piperidin-4-yl)methanol | FCC(CF)N1CCC(CC1)CO | C9H17F2NO
